US06063360
Tris(8-carboxy-2,2,6,6-tetra(hydroxyethoxy)methylbenzo[1,2-d:4,5-d']bis(1,3)dithiole-4-yl)methyl Sodium Salt
Tris(8-ethoxycarbonyl-2,2,6,6-tetra(hydroxyethoxy)methylbenzo[1,2-d:4,5-d']bis(1,3)dithiole-4-yl)methanol (see WO97/09633) (40 mg, 0.022 mmol) was dissolved in a mixture of acetic anhydride (S ml) and pyridine (10 ml) and the solution was stirred at room temperature for 2 hours. The organic solvents were removed by evaporation, the residue was dissolved in dichloromethane which was washed with water. After removal of the solvent by evaporation, the residue was dissolved in dichloromethane (8 ml) and then, a solution of trifluoromethanesulfonic acid in dichloromethane (0.58 mmol in 4 ml) was added at 0° C. After stirring for 2 minutes, a solution of SnCl2 in acetonitrile (2 mg in 2 ml) was added and the solution was stirred for another minute. The reaction mixture was poured onto an aqueous pH 7 sodium phosphate buffer, the organic phase was separated and the aqueous phase was extracted with dichloromethane (25 ml). The combined organic phases were dried (Na2SO4) and the solvent was removed by evaporation. The residue was dissolved ethanol (10 ml) and 1M aqueous solution hydroxide (3 ml) was added. After stirring for 1 hour at room temperature, the pH was adjusted to 2 using 1M aqueous HCl and then the solution was subjected to purification by preparative HPLC (RP-18, CH3CN-HCl (pH 2): 20:80). The fractions containing the pure product were combined and the acetonitrile was removed by evaporation. The residual aqueous solution was lyophilized, the residue was dissolved in water, the solution was neutralized using 1M aqueous NaOH and the solution was lyophilised again. Yield: 24 mg (62%). ESR: (1 mM in water, 100 G): singlet, linewidth 116 mG.

reactant | Tris(8-ethoxycarbonyl-2,2,6,6-tetra(hydroxyethoxy)methylbenzo[1,2-d:4,5-d']bis(1,3)dithiole-4-yl)methanol | 0.022 mmol, 40 mg | C(C)OC(=O)C1=C2SC(SC2=C(C=2SC(SC21)(COCCO)COCCO)C(O)(C2=C1C(SC(S1)(COCCO)COCCO)=C(C1=C2SC(S1)(COCCO)COCCO)C(=O)OCC)C1=C2C(SC(S2)(COCCO)COCCO)=C(C2=C1SC(S2)(COCCO)COCCO)C(=O)OCC)(COCCO)COCCO | C70H100O31S12
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | dichloromethane | 0.58 mmol, 4 ml | ClCCl | CH2Cl2
reactant | SnCl2 | Cl[Sn]Cl
reactant | sodium phosphate | pH 7 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 2 ml, 2 mg | C(C)#N | C2H3N
product | Tris(8-carboxy-2,2,6,6-tetra(hydroxyethoxy)methylbenzo[1,2-d:4,5-d']bis(1,3)dithiole-4-yl)methyl Sodium | C(=O)(O)C1=C2SC(SC2=C(C=2SC(SC21)(COCCO)COCCO)C(C2=C1C(SC(S1)(COCCO)COCCO)=C(C1=C2SC(S1)(COCCO)COCCO)C(=O)O)(C1=C2C(SC(S2)(COCCO)COCCO)=C(C2=C1SC(S2)(COCCO)COCCO)C(=O)O)[Na])(COCCO)COCCO | InChI=1S/C64H87O30S12.Na/c65-1-13-83-25-59(26-84-14-2-66)95-44-38(45-51(41(56(77)78)50(44)101-59)102-60(96-45,27-85-15-3-67)28-86-16-4-68)37(39-46-52(103-61(97-46,29-87-17-5-69)30-88-18-6-70)42(57(79)80)53-47(39)98-62(104-53,31-89-19-7-71)32-90-20-8-72)40-48-54(105-63(99-48,33-91-21-9-73)34-92-22-10-74)43(58(81)82)55-49(40)100-64(106-55,35-93-23-11-75)36-94-24-12-76;/h65-76H,1-36H2,(H,77,78)(H,79,80)(H,81,82);
